US06245773B1
To a well stirred solution of (+)-5-(2-cyanoethoxycarbonyl)-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine (0.82 g, 2.24 mmol) and 4-(N,N-dimethylamino)pyridine (0.329 g, 2.69 mmol) in CH2Cl2 (200 mL) was added a powder of 4-nitrophenyl chloroformate (0.543 g, 2.69 mmol) at room temperature. The solvent was evaporated and the residue was purified by column chromatography on silica gel using dichloromethane/hexane (20%-50%) as the eluent to give (+)-5-(2-cyanoethoxycarbonyl)-4-methoxymethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy)carbonyl]pyrimidine (0.80 g, 67%) as a viscous oil.

reactant | (+)-5-(2-cyanoethoxycarbonyl)-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine | 2.24 mmol, 0.82 g | C(#N)CCOC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)COC | C17H17F2N3O4
reactant | 4-nitrophenyl chloroformate | 2.69 mmol, 0.543 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | 4-(N,N-dimethylamino)pyridine | 2.69 mmol, 0.329 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (+)-5-(2-cyanoethoxycarbonyl)-4-methoxymethyl-1,6-dihydro-2-methoxy-6-(3,4-difluorophenyl)-1-[(4-nitrophenyloxy)carbonyl]pyrimidine | 0.80 g, 67% | C(#N)CCOC(=O)C1=C(N=C(N(C1C1=CC(=C(C=C1)F)F)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)COC | C24H20F2N4O8
